US08466289B2
Synthesis of the Title Compound; Cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide (19A)
Cyclopropane sulfonyl chloride (34 mg, 0.23 mmol) was added to a solution of 8-amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one (0.09 g, 0.21 mmol) in pyridine (1 mL) at 0° C. The resulting mixture was stirred at room temperature overnight. The reaction was monitored by TLC (5% MeOH in CHCl3). The reaction mixture was partitioned between ethylacetate and water. The organic layer was washed with 2N HCl, brine solution, dried over Na2SO4 and concentrated. Purification by column chromatography on silica gel (1% MeOH in CHCl3), followed by preparative HPLC afforded 25 mg of the product (22% yield).

reactant | Cyclopropane sulfonyl chloride | 0.23 mmol, 34 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | 8-amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-thiazolo[3,2-a]pyridin-5-one | 0.21 mmol, 0.09 g | NC1=C2N(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)CCS2 | C14H13FIN3OS
reactant | MeOH | CO | CH4O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide | 25 mg, 22% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCS2)NS(=O)(=O)C2CC2 | C17H17FIN3O3S2
